US07858640B2
[3-(4-chloro-2-fluorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic Acid
A solution of [3-(4-chloro-2-fluorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic acid methyl ester (0.094 g), tetrahydrofuran (10 mL) and 1.0 M aqueous lithium hydroxide solution (0.22 mL) was stirred at room temperature for 1 hour. The solvent was removed under reduced pressure and the residue diluted with water. The pH of this mixture was adjusted to 4 by the addition of sodium dihydrogenphosphate and extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure to afford title compound, 0.090 g.

reactant | [3-(4-chloro-2-fluorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic acid methyl ester | 0.094 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)OC(F)F)CC1=C(C=C(C=C1)Cl)F)C)=O | C21H16ClF4NO4
reactant | lithium hydroxide | 1.0 M, 0.22 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | [3-(4-chloro-2-fluorobenzyl)-2-difluoromethoxy-8-fluoro-4-methylquinolin-5-yloxy]acetic Acid | ClC1=CC(=C(CC=2C(=NC3=C(C=CC(=C3C2C)OCC(=O)O)F)OC(F)F)C=C1)F | C20H14ClF4NO4
